US07282588B2
N′-(4-{1-ethyl-4-[2-(2-methyl-1,2,3,4-tetrahydro-7-isoquinolinyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea
Following the procedure described for Intermediate 32 with 7-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-methyl-1,2,3,4-tetrahydroisoquinoline. Using this product crude and following the procedure described for Intermediate 100 using N′-[4-(4-bromo-1-ethyl-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea and stirring for 4.5 hours provided the title compound. ESMS [M+H]+: 660.6.

reactant | 7-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-methyl-1,2,3,4-tetrahydroisoquinoline | BrC1=C2C(=NC=C1)N(C(=C2)C2=CC=C1CCN(CC1=C2)C)S(=O)(=O)C2=CC=CC=C2 | C23H20BrN3O2S
reactant | N′-[4-(4-bromo-1-ethyl-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea | BrC=1C(=NN(C1)CC)C1=CC=C(C=C1)NC(N(C)C)=O | C14H17BrN4O
product | N′-(4-{1-ethyl-4-[2-(2-methyl-1,2,3,4-tetrahydro-7-isoquinolinyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C2=CC=C1CCN(CC1=C2)C)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)NC(N(C)C)=O | C37H37N7O3S
